US04661438
2,5-Dimethyl-3H-benzotellurazolium Chloride
1,1,1-Trichloro-3,6-dimethyl-2,1,4-benzoxatellurazinium, inner salt (Example 8) (17.3 g=0.05 mole) was dissolved in a mixture of methanol (300 ml) and 1N sodium hydroxide (100 ml, 0.1 mole) in a vessel fitted with a nitrogen inlet, a condenser, and a magnetic stirrer. Through the condenser was added sodium borohydride until further addition no longer produced a transient orange color. This required about 3.0 g. The mixture was stirred for a few minutes under nitrogen, then concentrated hydrochloric acid (100 ml) was added in one portion. The mixture was clarified by filtration with Celite®, then evaporated under reduced pressure to 200 ml, again filtered from inorganic salts and chilled overnight. Filtration yielded yield 9.15 g of colorless solid, which was rinsed with isopropanol and air dried. The material was not pure and contained inorganic salt contaminants.

reactant | 1,1,1-Trichloro-3,6-dimethyl-2,1,4-benzoxatellurazinium | Cl[TeH]1(OC(=[NH+]C2=C1C=CC(=C2)C)C)(Cl)Cl
reactant | sodium hydroxide | 0.1 mole, 1N, 100 ml | [OH-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | 2,5-Dimethyl-3H-benzotellurazolium Chloride | yield 9.15 g | [Cl-].CC1[Te]C2=C([NH2+]1)C=C(C=C2)C | InChI=1S/C9H11NTe.ClH/c1-6-3-4-9-8(5-6)10-7(2)11-9;/h3-5,7,10H,1-2H3;1H
